US07262212B2
A mixture of (R)-2-chloro-4-nitro-1-(2-methyl-2-oxiranylmethyl)imidazole (3 g, 13.79 mmol), tert-butyl 4-piperazin-1-yl-piperidine-1-carboxylate (3.9 g, 14.48 mmol), and ethanol (30 ml) was stirred at 50° C. for 9 hours. The reaction mixture was concentrated, and the residue was purified by silica gel column chromatography (methylene chloride/methanol=10/1) to obtain a yellow amorphous form. The amorphous form was dissolved in N,N-dimethylformamide (18 ml), sodium hydride (651 mg, 16.28 mmol) was added while cooling on ice, and the resultant solution was stirred at the same temperature for 1 hour. To the reaction mixture, ethyl acetate (6 ml) and water (42 ml) were added in this order, and the precipitated crystals were filtered off and washed with water. The filtrate was recrystallized from 2-propanol (20 ml)/water (60 ml) to obtain tert-butyl (S)-4-[4-(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)piperazin-1-yl]piperidine-1-carboxylate (4.08 g, 66%) as a light yellow powder.

reactant | (R)-2-chloro-4-nitro-1-(2-methyl-2-oxiranylmethyl)imidazole | 13.79 mmol, 3 g | ClC=1N(C=C(N1)[N+](=O)[O-])C[C@]1(OC1)C | C7H8ClN3O3
reactant | tert-butyl 4-piperazin-1-yl-piperidine-1-carboxylate | 14.48 mmol, 3.9 g | N1(CCNCC1)C1CCN(CC1)C(=O)OC(C)(C)C | C14H27N3O2
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | sodium hydride | 16.28 mmol, 651 mg | [H-].[Na+]
solvent | N,N-dimethylformamide | 18 ml | CN(C=O)C | C3H7NO
solvent | water | 42 ml | O | H2O
solvent | ethyl acetate | 6 ml | C(C)(=O)OCC | C4H8O2
product | tert-butyl (S)-4-[4-(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)piperazin-1-yl]piperidine-1-carboxylate | 4.08 g, 66% | C[C@@]1(CN2C(O1)=NC(=C2)[N+](=O)[O-])CN2CCN(CC2)C2CCN(CC2)C(=O)OC(C)(C)C | C21H34N6O5
